US07205295B2
Intermediate 66: 7-Bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one.
In concentrated hydrochloric acid (8 mL) was stirred intermediate 65 (1.0 g, 3.43 mmol) which was then cooled to 0° C. This was then treated, in parts, with tin dust (0.92 g, 7.8 mmol) and then warmed to 80° C. for 1 hour. The mixture was cooled to room temperature and diluted with water (100 mL). The mixture was stirred to form a precipitate. The solid was collected by filtration, washed with water (10 mL), and dried at 65° C. for 3 hours under a vacuum to give the title compound. MS: M++1=230.9 Da. Intermediate 67: 1-Benzyl-7-bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one. In DMF (30 mL) was stirred intermediate 66 (650 mg, 2.83 mmol) and cesium carbonate (3.9 g, 12 mmol). To this was added, dropwise, benzyl bromide (513 mg, 3.0 mmol) and the mixture was stirred overnight at room temperature. The mixture was filtered free of insolubles and the DMF was evaporated at reduced pressure to give a crude oil which was purified by MPLC (90 g silica gel column, 9:1 (methylene chloride/ethyl acetate). The appropriate fractions were combined and evaporated at reduced pressure to give the title compound. MS: M++1=321.0 Da.

reactant | 1-Benzyl-7-bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one | C(C1=CC=CC=C1)N1C2=C(OCC1=O)N=CC(=C2)Br | C14H11BrN2O2
reactant | cesium carbonate | 12 mmol, 3.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 3.0 mmol, 513 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-1H-pyrido[2,3-b][1,4]oxazin-2-one | BrC1=CC2=C(OCC(N2)=O)N=C1 | C7H5BrN2O2
